US04335129
A mixture of 550 mg. of 8-dimethylamino-6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline, 10 ml. of acetic acid, and 0.41 ml. of a 35% aqueous hydrogen peroxide solution was stirred at 20°-30° C. After one hour, the reaction mixture was filtered and after adding 10 ml. of water to the filtrate, anhydrous sodium carbonate was added to it to make the filtrate basic. The precipitates formed were recovered by filtration and dried. By recrystallizing from benzene-hexane, 300 mg. of 8-dimethylamino-6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline-1-oxide was obtained.

reactant | 8-dimethylamino-6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline | CN(C=1C=CC=2C=C3N(C(C2C1)=O)CCCS3)C | C14H16N2OS
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-dimethylamino-6-oxo-3,4-dihydro-2H,6H-1,3-thiazino[3,2-b]isoquinoline-1-oxide | CN(C=1C=CC=2C=C3N(C(C2C1)=O)CCCS3=O)C | C14H16N2O2S
